US07678800B2
BBr3 (7.0 mL; 74 mmol) was added slowly to 4-(2-methoxy-phenyl)-piperidine (6.25 g; 32.7 mmol) in 100 dichloromethane at 0° C. under argon. The reaction mixture was allowed to warm to room temperature and stirred 16 hours. The reaction mixture was quenched by carefully adding 100 mL water at 0° C. Another 300 mL water was added, followed by the addition of 50 mL 28% aqueous NaOH. The organic phase was discarded. Di-tert-butyl dicarbonate (9.0 g; 41 mmol) was added to the aqueous phase. The reaction mixture was stirred 1 hour at room temperature, neutralized with 1 N HCl, extracted with ethyl acetate (2×200 mL). The organic phase was washed with brine (100 mL), dried with MgSO4 and concentrated in vacuo to give 4-(2-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester.

reactant | BBr3 | 74 mmol, 7.0 mL | B(Br)(Br)Br | BBr3
reactant | 4-(2-methoxy-phenyl)-piperidine | 32.7 mmol, 6.25 g | COC1=C(C=CC=C1)C1CCNCC1 | C12H17NO
reactant | Di-tert-butyl dicarbonate | 41 mmol, 9.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 1 N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)O | C16H23NO3
